### PR TITLE
[Merged by Bors] - refactor(Algebra/Polynomial/Splits): continue deprecation

### PR DESCRIPTION
**Pull request by tb65536**
This PR continues the deprecation in `Splits.lean` as we move over to the new API in `Factors.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -194,22 +160,19 @@ theorem Splits.def {i : K →+* L} {f : K[X]} (h : Splits (f.map i)) :
...
-    Splits (g.map i) := by
-  obtain ⟨f, rfl⟩ := hgf
-  exact (splits_of_splits_mul i hf0 hf).1
+@[deprecated (since := "2025-11-25")]
+alias splits_of_splits_of_dvd := Splits.of_dvd
 
 theorem splits_of_splits_gcd_left [DecidableEq K] {f g : K[X]} (hf0 : f ≠ 0)
     (hf : Splits (f.map i)) : Splits ((EuclideanDomain.gcd f g).map i) :=
-  Polynomial.splits_of_splits_of_dvd i hf0 hf (EuclideanDomain.gcd_dvd_left f g)
+  Splits.of_dvd hf (map_ne_zero hf0) <| map_dvd i <| EuclideanDomain.gcd_dvd_left f g
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean]: (Sorry for catching this only now!) Seeing the name `Splits.of_dvd` repeated so many times has made me realize I don't like it very much. I think it's because there are three parts of this lemma, a `Splits` input, a `Dvd` input, and a `Splits` output, and the name only mentions two of them? So there's a bit of a weird overlap in reading in having to assign the `Splits` to both in- and output.

Maybe `Splits.splits_of_dvd` or `Splits.left_of_dvd`? (`Dvd.splits` might also work, although it's weird that a "more complicated" result about polynomials ends up in a "more simple" namespace about monoids with zero.)

File: Mathlib/Algebra/Polynomial/Factors.lean [hunk 2]
```diff
@@ -92,6 +92,22 @@ theorem splits_of_degree_le_zero {f : R[X]} (hf : degree f ≤ 0) :
     Splits f :=
   splits_of_natDegree_eq_zero (natDegree_eq_zero_iff_degree_le_zero.mpr hf)
 
+theorem splits_of_isUnit [NoZeroDivisors R] {f : R[X]} (hf : IsUnit f) : Splits f :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Factors.lean]: How about:
```suggestion
theorem _root_.IsUnit.splits [NoZeroDivisors R] {f : R[X]} (hf : IsUnit f) : Splits f :=
```

(with a deprecation for the original name.)

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 3]
```diff
@@ -108,42 +102,14 @@ theorem splits_id_iff_splits {f : K[X]} :
...
-    rw [comp_assoc]
-    nth_rw 1 [eq_X_add_C_of_degree_eq_one hd]
-    simp only [invOf_eq_inv, mul_sub, ← C_mul, add_comp, mul_comp, C_comp, X_comp,
-      ← mul_assoc]
-    simp
-  rw [this]
-  refine Splits.comp_of_degree_le_one ?_ h
-  simp [degree_C (inv_ne_zero (Invertible.ne_zero (a := p.leadingCoeff)))]
+@[deprecated (since := "2025-11-25")]
+alias Splits.comp_of_degree_le_one := Splits.comp_of_natDegree_le_one
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean]: Why are these deprecated? I always find it annoying when half of the lemmas are stated for `natDegree` and half for `degree`, and would wish that both versions exist.

**Review by Vierkantor — COMMENTED** [review]
Otherwise I really like the results of this PR, code becomes quite a bit nicer! 🎉

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Splits.lean]: `Splits.splits_of_dvd` sounds reasonable to me.

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Splits.lean]: I disagree here. Using `Foo.of_bar` to mean `Foo _ -> Bar _ -> Foo _` is a common and understood pattern. As such, this rename is both out of scope for this PR and (IMO) a regression.
